US04895865
Step 2: Preparation of 2-propoxybenzyl chloride
A 2 liter flask was charged with 316 grams (1.9 moles, 1.0 eg.) of 2-propoxybenzyl alcohol and 15 grams of pyridine (0.0126 moles) in 750 ml of toluene. 237 grams (1.99 moles, 1.01 ec.) of thionyl chloride was slowly added dropwise, allowing the reaction mixture to reflux during the addition. The reaction was stirred 4 hours at room temperature after which the toluene and thionyl chloride were removed under reduced pressure. To the remaining oil was added water and ether and washed with saturated NaHCO3 Drying and removal of the solvent gave 367 grams (100% yield) of a red oil.

reactant | 2-propoxybenzyl alcohol | 1.9 moles, 316 grams | C(CC)OC1=C(CO)C=CC=C1 | C10H14O2
reactant | thionyl chloride | 1.99 moles, 237 grams | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
catalyst | pyridine | 0.0126 moles, 15 grams | N1=CC=CC=C1 | C5H5N
product | 2-propoxybenzyl chloride | 367 grams, 100% yield | C(CC)OC1=C(CCl)C=CC=C1 | C10H13ClO
